US08912181B2
A suspension of 3-amino-2-chloropyridine (17.6 g) and 5-(methoxymethylene)-2,2-dimethyl-1,3-dioxane-4,6-dione (25.5 g) in isopropanol (274 ml) was heated to reflux for 5 minutes. After cooling, the deposit was filtrated to obtain 5-((2-chloropyridin-3-ylamino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione (34.8 g). The obtained 5-((2-chloropyridin-3-ylamino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-di one (8.2 g) was gradually added to Dowtherm heated to 220° C., and the mixture was heated at 220° C. for 30 minutes. After cooling, hexane (300 ml) was added to the reaction solution, and the deposit was filtrated to obtain 8-chloro-1,7-naphthyridin-4(1H)-one (2.02 g). 4-(4-Chloro-1,7-naphthyridin-8-yl)-2-(ethylamino)benzonitrile (0.107 g) was obtained according to Example 5(1) using the obtained 8-chloro-1,7-naphthyridin-4(1H)-one (0.295 g) instead of compound (3a) and 4-cyano-3-(ethylamino)phenylboronic acid pinacol ester instead of 3-quinolineboronic acid. A suspension of the obtained 4-(4-chloro-1,7-naphthyridin-8-yl)-2-(ethylamino)benzonitrile (0.0491 g), 4-(1H-imidazol-4-yl)-1-methyl-1H-pyrazole hydrochloride (0.035 g), copper(II) oxide nanoparticles (0.06 g), and potassium carbonate (0.0883 g) in DMF (1.5 ml) was stirred overnight at 125° C. The reaction solution was partitioned between ethyl acetate and water. The organic layer was washed with brine. The organic layer thus washed was dried over anhydrous sodium sulfate. Then, the solvent was distilled off, and the residue was purified by neutral silica gel column chromatography (chloroform/methanol) to obtain 2-(ethylamino)-4-(4-(4-(1-methyl-1H-pyrazol-4-yl)-1H-imidazol-1-yl)-1,7-naphthyridin-8yl)benzonitrile. An aqueous sodium hydroxide solution (4 M, 0.093 mL) and a 30% aqueous hydrogen peroxide solution (0.045 mL) were added to a solution of the obtained 2-(ethylamino)-4-(4-(4-(1-methyl-1H-pyrazol-4-yl)-1H-imidazol-1-yl)-1,7-naphthyridin-8yl)benzonitrile in DMSO (3 mL) at room temperature, and the mixture was stirred for 30 minutes. Water was added to the reaction solution, and the deposit was collected by filtration, then washed with water and ether by sprinkling, and then dried under reduced pressure to obtain compound (72) (0.040 g, yield based on 6 steps: 4%) as a pale yellow solid.

reactant | 8-chloro-1,7-naphthyridin-4(1H)-one | 0.295 g | ClC=1N=CC=C2C(C=CNC12)=O | C8H5ClN2O
reactant | 4-cyano-3-(ethylamino)phenylboronic acid pinacol ester | C(#N)C1=C(C=C(C=C1)B1OC(C)(C)C(C)(C)O1)NCC | C15H21BN2O2
reactant | 4-(4-chloro-1,7-naphthyridin-8-yl)-2-(ethylamino)benzonitrile | 0.0491 g | ClC1=CC=NC2=C(N=CC=C12)C1=CC(=C(C#N)C=C1)NCC | C17H13ClN4
reactant | 4-(1H-imidazol-4-yl)-1-methyl-1H-pyrazole hydrochloride | 0.035 g | Cl.N1C=NC(=C1)C=1C=NN(C1)C
reactant | potassium carbonate | 0.0883 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
catalyst | copper(II) oxide | [Cu]=O
product | 2-(ethylamino)-4-(4-(4-(1-methyl-1H-pyrazol-4-yl)-1H-imidazol-1-yl)-1,7-naphthyridin-8yl)benzonitrile | C(C)NC1=C(C#N)C=CC(=C1)C=1N=CC=C2C(=CC=NC12)N1C=NC(=C1)C=1C=NN(C1)C | C24H20N8
